US06172064B2
To a solution of (3R,4S)-1-(2-tetrahydropyranyloxy)-3-((2E)-3-tributylstannyl-2-propene-1-yl)-4-methylazetidin-2-one (0.92 g, 1.79 mmol) in 3 mL of dimethylformamide is added 4-chloroiodobenzene (470 mg, 1.97 mmol) and triphenyphosphine palladium (II) dichloride (63 mg, 0.09 mmol). The resulting solution is heated at 80° C. for 16 h, then 0.5 mL ammonium hydroxide is added. The reaction mixture is poured into saturated sodium chloride solution (20 mL) and extracted with 1:1 ethyl acetate/hexane (50 mL). The combined organic layers were dried over anhydrous magnesium sulfate, concentrated under reduced pressure, and purified by silica gel chromatography (elution with 3:1 hexanes-ethyl acetate) to provide (3R,4S)-1-(2-tetrahydropyranyloxy)-3-((2E)-3-(4-chlorophenyl)-2-propene-1-yl)-4-methylazetidin-2-one as an oil (370 mg, 61% yield).

reactant | (3R,4S)-1-(2-tetrahydropyranyloxy)-3-((2E)-3-tributylstannyl-2-propene-1-yl)-4-methylazetidin-2-one | 1.79 mmol, 0.92 g | O1C(CCCC1)ON1C([C@@H]([C@@H]1C)C\C=C\[Sn](CCCC)(CCCC)CCCC)=O
reactant | 4-chloroiodobenzene | 1.97 mmol, 470 mg | ClC1=CC=C(C=C1)I | C6H4ClI
reactant | ammonium hydroxide | 0.5 mL | [OH-].[NH4+]
reactant | sodium chloride | 20 mL | [Cl-].[Na+]
solvent | dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
catalyst | triphenyphosphine palladium (II) dichloride | 0.09 mmol, 63 mg | [Pd](Cl)Cl.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | (3R,4S)-1-(2-tetrahydropyranyloxy)-3-((2E)-3-(4-chlorophenyl)-2-propene-1-yl)-4-methylazetidin-2-one | 370 mg, 61% yield | O1C(CCCC1)ON1C([C@@H]([C@@H]1C)C\C=C\C1=CC=C(C=C1)Cl)=O | C18H22ClNO3
